US08389527B2
BOP (60.2 mg, 0.136 mmol) was added to a solution of 6-((trans)-4-aminocyclohexylamino)-N-(2-chloropyridin-4-yl)-8-(cyclopropylamino)imidazo[1,2-b]pyridazine-3-carboxamide (20.00 mg, 0.045 mmol), DIEA (0.032 mL, 0.181 mmol) and 2-cyanoacetic acid (7.72 mg, 0.091 mmol) in DCM (1 mL). The clear reaction mixture was stirred at room temperature for 30 min, concentrated and diluted with MeOH and purified by HPLC (Phenomenex Axia Luna 5 micron 30×100 mm) 20% B (Solvent B=90% MeOH-10% H2O-0.1% TFA) to 100% B in A (Solvent A=10% MeOH-90% H2O-0.1% TFA) to isolate N-(2-chloropyridin-4-yl)-6-((trans)-4-(2-cyanoacetamido)cyclohexylamino)-8-(cyclopropylamino)imidazo[1,2-b]pyridazine-3-carboxamide (11 mg, 0.022 mmol, 47.7% yield) as white solid. LC/MS (Phenomenex Luna 5 micron C18 4.6×30 mm, 0 to 100 B in 2 min with 1 min hold time, Flow rate=5 mL/min, detection at 254 nm, Solvent A: 10% methanol/90% water/0.1% TFA; Solvent B: 10% water/90% methanol/0.1% TFA). Rt=1.772 minutes. [M+H]=508.11. 1H NMR (400 MHz, MeOD) δ ppm 8.24-8.39 (1H, m), 7.95-8.03 (1H, m), 7.87-7.97 (1H, m), 7.51-7.67 (1H, m), 5.98-6.11 (1H, m), 3.60-3.83 (2H, m), 2.47-2.66 (1H, m), 2.19-2.37 (2H, m), 1.96-2.19 (2H, m), 1.28-1.55 (4H, m), 0.77-0.96 (2H, m), 0.52-0.75 (2H, m).

reactant | BOP | 0.136 mmol, 60.2 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 6-((trans)-4-aminocyclohexylamino)-N-(2-chloropyridin-4-yl)-8-(cyclopropylamino)imidazo[1,2-b]pyridazine-3-carboxamide | 0.045 mmol, 20.00 mg | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)Cl)NC2CC2 | C21H25ClN8O
reactant | DIEA | 0.181 mmol, 0.032 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-cyanoacetic acid | 0.091 mmol, 7.72 mg | C(#N)CC(=O)O | C3H3NO2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(2-chloropyridin-4-yl)-6-((trans)-4-(2-cyanoacetamido)cyclohexylamino)-8-(cyclopropylamino)imidazo[1,2-b]pyridazine-3-carboxamide | 0.022 mmol, 11 mg, 47.7% yield | ClC1=NC=CC(=C1)NC(=O)C1=CN=C2N1N=C(C=C2NC2CC2)N[C@@H]2CC[C@H](CC2)NC(CC#N)=O | C24H26ClN9O2
